US08895745B2
Step c) 3-Iodo-imidazo[1,2-a]pyridine-7-carbaldehyde
To a solution of (3-Iodo-imidazo[1,2-a]pyridin-7-yl)methanol (1.00 g, 3.65 mmol) and NMO (0.64 g, 5.47 mmol) in CH2Cl2 (30 ml) with sieves (3 g) at 0° C. was added TPAP (0.06 g, 0.18 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 18 h, before being filtered to remove the sieves. The organic layer was washed with H2O (×2), dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by silica column chromatography (0-60% MeOH in Et2O) to afford the product (0.15 g). MS: [M+H]+=273

reactant | (3-Iodo-imidazo[1,2-a]pyridin-7-yl)methanol | 3.65 mmol, 1.00 g | IC1=CN=C2N1C=CC(=C2)CO | C8H7IN2O
reactant | NMO | 5.47 mmol, 0.64 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.18 mmol, 0.06 g | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 3-Iodo-imidazo[1,2-a]pyridine-7-carbaldehyde | 0.15 g | IC1=CN=C2N1C=CC(=C2)C=O | C8H5IN2O
